US09029536B2
C) 3-[4-(Benzyloxy)phenyl]-1H-pyrazolo[3,4-b]pyrazine
To a solution of [4-(benzyloxy)phenyl](3-chloropyrazin-2-yl)methanone (1.23 g) in EtOH (20 mL) was added hydrazine hydrate (0.37 mL) at room temperature, and the mixture was refluxed for 2 h. The mixture was concentrated under reduced pressure. The residue was partitioned between AcOEt/THF (1/1) and saturated NaHCO3 aqueous solution. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The residual crystals were recrystallized from THF/AcOEt to give the title compound (0.60 g).

reactant | [4-(benzyloxy)phenyl](3-chloropyrazin-2-yl)methanone | 1.23 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=NC=CN=C1Cl | C18H13ClN2O2
reactant | hydrazine hydrate | 0.37 mL | O.NN
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-[4-(Benzyloxy)phenyl]-1H-pyrazolo[3,4-b]pyrazine | 0.60 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NNC2=NC=CN=C21 | C18H14N4O
